data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]12[c:18]([n:7][o:27][n+:25]1[O-:5])[n:17][c:15]([O:19][CH3:16])[n:10][cH:22]2.[cH:2]1[cH:8][c:26]([CH:4]=[C:31]2[CH:28]=[CH:13][C:23](=[N+:24]([O-:20])[O-:21])[CH:14]=[CH:29]2)[cH:9][cH:3][c:11]1[N+:30](=[O:6])[O-:12]>>[c:1]12[c:18]([n:7][o:27][n+:25]1[O-:5])[N:17]=[C:15]([O:19][CH3:16])[N-:10][CH:22]2[CH:4]([c:26]1[cH:8][cH:2][c:11]([N+:30](=[O:6])[O-:12])[cH:3][cH:9]1)[c:31]1[cH:28][cH:13][c:23]([N+:24](=[O:20])[O-:21])[cH:14][cH:29]1", "epd": [["LP-/Pi+", [20], [24, 20]], ["Pi-/Pi+", [23, 24], [13, 23]], ["Pi-/Pi+", [28, 13], [31, 28]], ["Pi-/Sigma+", [4, 31], [4, 22]], ["Pi-/LP+", [22, 10], [10]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH2:1]1[CH2:7][CH2:3][NH:21][C:6]2=[N:26][CH2:2][CH2:9][CH2:19][N:18]12.[S:4]([c:10]1[cH:22][cH:14][cH:12][cH:17][cH:25]1)([C:20]([S:5]([c:11]1[cH:23][cH:15][cH:13][cH:16][cH:24]1)(=[O:27])=[O:28])=[CH2:8])(=[O:29])=[O:30]>>[CH2:1]1[CH2:7][CH2:3][NH:21][C:6]2=[N+:18]1[CH2:19][CH2:9][CH2:2][N:26]2[CH2:8][C-:20]([S:4]([c:10]1[cH:22][cH:14][cH:12][cH:17][cH:25]1)(=[O:29])=[O:30])[S:5]([c:11]1[cH:23][cH:15][cH:13][cH:16][cH:24]1)(=[O:27])=[O:28]", "epd": [["LP-/Pi+", [18], [6, 18]], ["Pi-/Sigma+", [26, 6], [26, 8]], ["Pi-/LP+", [8, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:1]=[S:7](=[O:2])([C:9]([F:45])([F:46])[F:47])[c:38]1[cH:26][c:8]2[n+:13]([O-:5])[o:44][n:19][c:49]2[c:36]([N+:22]([O-:14])=[O:27])[cH:39]1.[cH:3]1[cH:23][cH:31][c:40]([N:25]2[C:6](=[C:28]([c:4]3[cH:15][cH:41][cH:10][cH:42][cH:16]3)[O:11][CH3:43])[N:12]([c:52]3[cH:20][cH:34][cH:30][cH:35][cH:21]3)[N:48]=[C:33]2[c:29]2[cH:50][cH:17][cH:37][cH:18][cH:51]2)[cH:32][cH:24]1>>[O:1]=[S:7](=[O:2])([C:9]([F:45])([F:46])[F:47])[C:38]1=[CH:39][C:36](=[N+:22]([O-:14])[O-:27])[c:49]2[c:8]([n+:13]([O-:5])[o:44][n:19]2)[CH:26]1[C:28]([c:4]1[cH:15][cH:41][cH:10][cH:42][cH:16]1)([c:6]1[n+:12](-[c:52]2[cH:20][cH:34][cH:30][cH:35][cH:21]2)[n:48][c:33](-[c:29]2[cH:50][cH:17][cH:37][cH:18][cH:51]2)[n:25]1-[c:40]1[cH:31][cH:23][cH:3][cH:24][cH:32]1)[O:11][CH3:43]", "epd": [["LP-/Pi+", [12], [6, 12]], ["Pi-/Sigma+", [28, 6], [28, 26]], ["Pi-/Pi+", [26, 38], [38, 39]], ["Pi-/Pi+", [39, 36], [36, 22]], ["Pi-/LP+", [22, 27], [27]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[C:2]1([O:16][Si:6]([CH3:17])([CH3:18])[CH3:19])=[C:15]([CH3:11])[CH2:8][CH2:5][O:12]1.[cH:1]1[cH:3][cH:13][c:10]([N+:7](=[CH2:9])[CH3:20])[cH:14][cH:4]1>>[cH:1]1[cH:3][cH:13][c:10]([N:7]([CH2:9][C:15]2([CH3:11])[C:2](=[O+:16][Si:6]([CH3:17])([CH3:18])[CH3:19])[O:12][CH2:5][CH2:8]2)[CH3:20])[cH:14][cH:4]1", "epd": [["LP-/Pi+", [16], [2, 16]], ["Pi-/Sigma+", [15, 2], [15, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:11]1[c:19]([CH+:37][c:20]2[cH:12][c:23]([F:29])[cH:36][c:24]([F:30])[cH:13]2)[cH:14][c:21]([F:27])[cH:35][c:22]1[F:28].[cH:1]1[c:18]([C:15](=[C:3]2[N:16]([CH3:4])[c:25]3[cH:10][cH:8][cH:7][cH:9][c:26]3[N:17]2[CH3:5])[O:34][CH3:33])[cH:2][cH:32][cH:6][cH:31]1>>[cH:1]1[c:18]([C:15]([c:3]2[n+:16]([CH3:4])[c:25]3[cH:10][cH:8][cH:7][cH:9][c:26]3[n:17]2[CH3:5])([O:34][CH3:33])[CH:37]([c:19]2[cH:11][c:22]([F:28])[cH:35][c:21]([F:27])[cH:14]2)[c:20]2[cH:12][c:23]([F:29])[cH:36][c:24]([F:30])[cH:13]2)[cH:2][cH:32][cH:6][cH:31]1", "epd": [["LP-/Pi+", [16], [3, 16]], ["Pi-/Sigma+", [15, 3], [15, 37]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:5]12[CH2:8][CH2:17][N+:7]([F:4])([CH2:18][CH2:9]1)[CH2:19][CH2:10]2)[Cl:20].[CH3:2][C:6](=[C:3]=[N-:11])[c:12]1[cH:13][cH:15][cH:21][cH:16][cH:14]1>>[CH2:1]([N+:5]12[CH2:8][CH2:17][N:7]([CH2:18][CH2:9]1)[CH2:19][CH2:10]2)[Cl:20].[CH3:2][C:6]([C:3]#[N:11])([F:4])[c:12]1[cH:13][cH:15][cH:21][cH:16][cH:14]1", "epd": [["LP-/Pi+", [11], [3, 11]], ["Pi-/Sigma+", [6, 3], [6, 4]], ["Sigma-/LP+", [4, 7], [7]]]}
{"reaction_name": "Ozonolysis", "rsmi": "[CH2:1]=[CH2:2].[O:3]=[O+:4][O-:5].[CH3:6][S:7][CH3:8]>>[CH2:1]=[O:3].[CH2:2]=[O:5].[CH3:6][S:7](=[O:4])[CH3:8]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/Pi+", [1, 2], [1, 3]], ["Sigma-/LP+", [3, 4], [4]], ["Pi-/Sigma+", [3, 4], [4, 7]], ["LP-/Sigma+", [5], [2, 5]], ["Sigma-/Pi+", [4, 5], [2, 5]], ["LP-/Pi+", [7], [4, 7]]]}
